US04093809
a. Diethyl 7,9,9-Trimethyl-1,3-diazaspiro[4.5]-decane-2,4-dione-7-ylphosphonate
A suspension of 829 grams (3 moles) of diethyl 3-oxo-1,5,5-trimethylcyclohexylphosphonate (A. N. Pudovik and I. V. Konovalova, Zh. Obshch. Khim., 27, 1617 (1957), 293 grams (4.5 moles) of potassium cyanide, and 864 grams (9 moles) of powdered ammonium carbonate in 1200 ml of ethanol and 900 ml of water, was heated to 55° C with stirring over a period of 30 minutes. The mixture was heated at 55° C for an additional 5.5 hours, cooled to room temperature and filtered through a Buchner funnel. The resulting two diastereomeric hydantoin derivatives (isomers A and B) which differ in solubilities and melting points were then isolated, respectively, from the filter cake and filtrate.

reactant | diethyl 3-oxo-1,5,5-trimethylcyclohexylphosphonate | 3 moles, 829 grams | O=C1CC(CC(C1)(C)C)(C)P(OCC)(OCC)=O | C13H25O4P
reactant | potassium cyanide | 4.5 moles, 293 grams | [C-]#N.[K+]
reactant | ammonium carbonate | 9 moles, 864 grams | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol | 1200 ml | C(C)O | C2H6O
solvent | water | 900 ml | O | H2O
product | Diethyl 7,9,9-Trimethyl-1,3-diazaspiro[4.5]-decane-2,4-dione-7-ylphosphonate | CC1(CC2(C(NC(N2)=O)=O)CC(C1)(C)C)P(OCC)(OCC)=O | C15H27N2O5P
